US07211538B2
b) Preparation of [cyclopentadienyl (3-trimethylsiloxypropyl)-cyclopentadienyl]zirconium dichloride
To a suspension of 2.46 g (7 mmol) of cyclopentadienyl zirconium trichloride in toluene, a suspension of 1.6 g (7 mmol) of potassium (3-trimethylsiloxypropyl)-cyclopentadienide in toluene is added. A yellow-brown-coloured suspension immediately precipitates. The reaction is maintained for 12 hours. Subsequently, the solution is filtered and concentrated and a crystalline white solid is formed (0.8 g, 2 mmol, 28%). 1H-NMR (C6D6): 5.87 (t, 2H), 5.65 (t, 2H), 3.46 (m, 2H), 2.74 (m, 2H), 1.73 (m, 2H), 0.14 (s, 9H). 13C-NMR (C6D6): 11.6.9, 115.0, 114.7, 112.2, 61.8, 33.6, 26.8, −0.393. Mass spectrum: M+-65(356): 30%.

reactant | cyclopentadienyl zirconium trichloride | 7 mmol, 2.46 g | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Zr+3]
reactant | potassium (3-trimethylsiloxypropyl)-cyclopentadienide | 7 mmol, 1.6 g | C[Si](OCCC[C-]1C=CC=C1)(C)C.[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | [cyclopentadienyl (3-trimethylsiloxypropyl)-cyclopentadienyl]zirconium dichloride | [Cl-].[Cl-].C1(C=CC=C1)C=1C(C=CC1)(CCCO[Si](C)(C)C)[Zr+2] | InChI=1S/C16H23OSi.2ClH.Zr/c1-18(2,3)17-13-7-11-15-10-6-12-16(15)14-8-4-5-9-14;;;/h4-6,8-10,12,14H,7,11,13H2,1-3H3;2*1H;/q;;;+2/p-2
